US06448031B1
Z-Leu-Arg(Tos)-Pro-NHEt 20.99 g produced as in Example 1 (1-2) was dissolved in 200 mL of methanol, then hydrogen was passed to the solution in the presence of 1.5 g of 10% palladium/carbon. The mixture was stirred at room temperature for 7 hours, the catalyst was removed, then the filtrate was concentrated under reduced pressure. The residue was solidified by treatment with ether. Thus, H-Leu-Arg(Tos)-Pro-NHEt was obtained.

reactant | Z-Leu-Arg(Tos)-Pro-NHEt | 20.99 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)NCC)CCC1)C(=O)OCC1=CC=CC=C1 | C34H49N7O7S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium/carbon | 1.5 g | [Pd] | Pd
product | H-Leu-Arg(Tos)-Pro-NHEt | N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)NCC)CCC1 | C26H43N7O5S
